US06881733B1
1-benzyl-3-methyl-4-hydroxy-4-(5-trifluoromethylbenzofur-7-yl)piperidine
Beginning with 1.1 gm (4.15 mMol) 5-trifluoromethyl-7-bromobenzofuran and 0.93 gm (4.57 mMol) 1-benzyl-3-methyl-4-oxopiperidine, 0.70 gm (43%) of the desired compound were recovered as a yellow solid essentially as described in EXAMPLE 3.

reactant | 5-trifluoromethyl-7-bromobenzofuran | 4.15 mMol, 1.1 gm | FC(C=1C=C(C2=C(C=CO2)C1)Br)(F)F | C9H4BrF3O
reactant | 1-benzyl-3-methyl-4-oxopiperidine | 4.57 mMol, 0.93 gm | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
product | 1-benzyl-3-methyl-4-hydroxy-4-(5-trifluoromethylbenzofur-7-yl)piperidine | 0.70 gm, 43% | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=CC(=CC=2C=COC21)C(F)(F)F)O)C | C22H22F3NO2
